US05686482
A 1.00 g portion of methyl 5-acetyl-2,4-dimethoxybenzoate was dissolved in 10 ml of methanol, and 0.24 g of sodium borohydride was added in small portions. After 10 minutes of stirring at room temperature, 1N hydrochloric acid aqueous solution was added thereto, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 0.90 g of methyl 2,4-dimethoxy-5-(1-hydroxy)ethylbenzoate.

reactant | methyl 5-acetyl-2,4-dimethoxybenzoate | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)OC)OC | C12H14O5
reactant | sodium borohydride | 0.24 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | methyl 2,4-dimethoxy-5-(1-hydroxy)ethylbenzoate | 0.90 g | COC1=C(C(=O)OC)C=C(C(=C1)OC)C(C)O | C12H16O5
